US07759337B2
(R)-1-(6-bromophthalazin-1-yl)-N-isopropyl-5-methylpyrrolidine-2-carboxamide
6-Bromo-1-chlorophthalazine (215 mg, 881 μmol), (R)-N-isopropyl-5-methylpyrrolidine-2-carboxamide (150 mg, 881 μmol), and cesium carbonate (1435 mg, 4405 μmol) were added to acetonitrile (4.4 mL) and heated in the microwave oven for 80 min at 200° C. The reaction was diluted with 75 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 3× with 50 mL of sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give crude. The crude was purified by chromatography to obtain the title compound. Found MS (ES+): 377(M+H)+.

reactant | 6-Bromo-1-chlorophthalazine | 881 μmol, 215 mg | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | (R)-N-isopropyl-5-methylpyrrolidine-2-carboxamide | 881 μmol, 150 mg | C(C)(C)NC(=O)[C@@H]1NC(CC1)C | C9H18N2O
reactant | cesium carbonate | 4405 μmol, 1435 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 4.4 mL | C(C)#N | C2H3N
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | (R)-1-(6-bromophthalazin-1-yl)-N-isopropyl-5-methylpyrrolidine-2-carboxamide | BrC=1C=C2C=NN=C(C2=CC1)N1[C@H](CCC1C)C(=O)NC(C)C | C17H21BrN4O
